US08247557B2
2,4-Dichloro-3-nitropyridine c (2.058 g, 10.7 mmol) was dissolved in HOAc (10 mL) under nitrogen. Iron powder (1.9191 g, 34.4 mmol) was added. The sample was heated at 40° C. for two hours. The reaction mixture was poured onto ice and then NaHCO3 was added to give a neutral solution. The sample was extracted with EtOAc (3×100 mL). The EtOAc extracts were washed with saturated NaHCO3 (1×100 mL). The combined aqueous layers were back extracted once with 100 mL EtOAc. The combined EtOAc extracts were dried over MgSO4, filtered, and concentrated to give 3-amino-2-4-dichloropyridine d (1.510 g, 9.26 mmol, 87%).

reactant | 2,4-Dichloro-3-nitropyridine | ClC1=NC=CC(=C1[N+](=O)[O-])Cl | C5H2Cl2N2O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | HOAc | 10 mL | CC(=O)O | C2H4O2
catalyst | Iron | 34.4 mmol, 1.9191 g | [Fe] | Fe
product | 3-amino-2-4-dichloropyridine | C1=CN=C(C(=C1Cl)N)Cl | C5H4Cl2N2
